US08420655B2
To a solution of 2-fluoro-5-methoxybenzaldehyde (450 mg, 2.92 mmol) in DMSO (13 mL) are added 4-chloro-1H-pyrazole (450 mg, 4.39 mmol) and K2CO3 (810 mg, 5.84 mmol) at room temperature. The solution is heated to 100° C. for 1.5 hours. The solution is cooled down and is diluted with H2O (150 mL) and extracted with EtOAc (3×). The combined organic layers are dried with MgSO4 and filtered. The filtrate is concentrated and the residue is purified by silica gel flash column chromatography with 5-25% EtOAc in heptane as the eluent to afford 2-(4-chloro-pyrazol-1-yl)-5-methoxy-benzaldehyde which is used without further purification

reactant | 2-fluoro-5-methoxybenzaldehyde | 2.92 mmol, 450 mg | FC1=C(C=O)C=C(C=C1)OC | C8H7FO2
reactant | 4-chloro-1H-pyrazole | 4.39 mmol, 450 mg | ClC=1C=NNC1 | C3H3ClN2
reactant | K2CO3 | 5.84 mmol, 810 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 13 mL | CS(=O)C | C2H6OS
solvent | H2O | 150 mL | O | H2O
product | 2-(4-chloro-pyrazol-1-yl)-5-methoxy-benzaldehyde | ClC=1C=NN(C1)C1=C(C=O)C=C(C=C1)OC | C11H9ClN2O2
